US04722929
(a) 4-Amino-5-(2-methoxy-4-methylmercapto-benzoylamino)-pyrimidin-2,6-dione
Twenty grams of 2-methoxy-4-methylmercapto-benzoic acid is dissolved in 260 ml of dimethylformamide, mixed with 13 gm of N,N'-carbonyl-diimidazole, and stirred for 30 minutes at ambient temperature. Then, 13 gm of 4,5-diamino-pyrimidin-2,6-dione are added, and the reaction mixture is refluxed for three hours with stirring. After cooling, it is poured into 1 liter of water. The product precipitated is suction filtered, washed with water, and dried at 70° C. in a circulating air drier.

reactant | 2-methoxy-4-methylmercapto-benzoic acid | Twenty grams | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | 4,5-diamino-pyrimidin-2,6-dione | 13 gm | NC=1NC(NC(C1N)=O)=O | C4H6N4O2
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 260 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-(2-methoxy-4-methylmercapto-benzoylamino)-pyrimidin-2,6-dione | NC=1NC(NC(C1NC(C1=C(C=C(C=C1)SC)OC)=O)=O)=O | C13H14N4O4S
